US04542149
6-nitro-7-acetamido-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol;
6-nitro-7-amino-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol or a pharmaceutically salt thereof; or 6-cyano-7-amino-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol or a pharmaceutically acceptable salt thereof.

reactant | 6-nitro-7-amino-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol | [N+](=O)([O-])C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)=O)O)(C)C)C=C1N | C15H19N3O5
reactant | 6-cyano-7-amino-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)=O)O)(C)C)C=C1N | C16H19N3O3
product | 6-nitro-7-acetamido-3,4-dihydro-trans-4-(2-ketopyrrolidinyl)-2,2-dimethyl-2H-benzo[b]pyran-3-ol | [N+](=O)([O-])C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)=O)O)(C)C)C=C1NC(C)=O | C17H21N3O6
